US07307086B2
4-Hydroxy-4-(1,3-thiazol-5-yl)cyclohexanone
To a solution of 8-(1,3-thiazol-5-yl)-1,4-dioxaspiro[4.5]decan-8-ol (0.95 g, 4.14 mmol) in THF (20 mL) was added an aqueous solution of 3 N HCl (10 mL). The mixture was stirred for 1 h at 50° C. After cooling to room temperature, the solution was treated with Na2CO3 to pH 8 and extracted with EtOAc three times. The combined organic layers were washed with saturated NaCl solution, dried (MgSO4), and concentrated to give 0.78 g (98%) of the desired product. MS (M+H)+=198.2.

reactant | 8-(1,3-thiazol-5-yl)-1,4-dioxaspiro[4.5]decan-8-ol | 4.14 mmol, 0.95 g | S1C=NC=C1C1(CCC2(OCCO2)CC1)O | C11H15NO3S
reactant | HCl | 3 N, 10 mL | Cl | ClH
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-Hydroxy-4-(1,3-thiazol-5-yl)cyclohexanone | 0.78 g, 98% | OC1(CCC(CC1)=O)C1=CN=CS1 | C9H11NO2S
